US08629271B2
a) 2-Isopropylpyridine
A solution of butyllithium (1.6M in hexanes, 50 mL) was added dropwise over 20 min to a solution of 2-ethylpyridine (9.34 mL) in tetrahydrofuran (50 mL) at −70° C. The mixture was stirred for 2 h then methyl iodide (5 mL) was added dropwise over 15 min. The resulting orange slurry was allowed to warm to RT and stirred overnight. The solvent was evaporated and the residue diluted with diethylether (100 mL). The organic layer was washed with water (2×100 mL) and brine (100 mL), then dried over sodium sulphate, filtered and evaporated to give the subtitled compound as a yellow oil. Yield 9.1 g.

reactant | butyllithium | 1.6M, 50 mL | C(CCC)[Li]
reactant | 2-ethylpyridine | 9.34 mL | C(C)C1=NC=CC=C1 | C7H9N
reactant | methyl iodide | 5 mL | CI | CH3I
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-Isopropylpyridine | C(C)(C)C1=NC=CC=C1 | C8H11N
